US08217570B2
4-Bromoacetophenone 19.9 g (100 mmol) and benzaldehyde 10.6 g (100 mmol) were mixed and, the system was substituted with argon. Next, 200 mL of ethanol and 10 MeI of a 1N sodium methoxide/methanol solution were added thereto and stirred at room temperature for 5 hours. Thereafter, the solution was heated on an oil bath of 70° C. to carry out reaction for further 4 hours while refluxing ethanol. Then, benzamidine hydrochloride 9.40 g (60 mmol) and sodium hydroxide 8.00 g (200 mmol) were added thereto and heated on the oil bath of 70° to carry out reaction for 5 hours. After finishing the Reactions the deposit was separated by filtering and refined by silica gel chromatography to obtain 13.6 g (yield: 35%) of 4-(4-bromophenyl)-2,6-diphenylpyrimidine.

reactant | 4-Bromoacetophenone | 100 mmol, 19.9 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | benzaldehyde | 100 mmol, 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | MeI | CI | CH3I
reactant | sodium methoxide methanol | 1N | C[O-].[Na+].CO
reactant | benzamidine hydrochloride | 60 mmol, 9.40 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium hydroxide | 200 mmol, 8.00 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-(4-bromophenyl)-2,6-diphenylpyrimidine | 13.6 g, yield: 35% | BrC1=CC=C(C=C1)C1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H15BrN2
